US08030302B2
4-(6-Cyclopropyl-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-5-yloxy)-3-fluoroaniline
To a 25 mL glass vial is added 6-cyclopropyl-5-(2-fluoro-4-nitrophenoxy)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole (395 mg, 994 μmol) and MeOH (20 mL, 494 mmol). To the suspension is added N,N-dimethylhydrazine (756 μL, 9.94 mmol) and FeCl3 (163 mg, 994 μmol). The vial is capped, and heated to 60° C. and stirred for 2 hours and then stirred at 50° C. overnight. The mixture is filtered over a Buchner funnel and the solid washed with MeOH (100 mL). The filtrate is collected and concentrated to give a brown/orange solid. The residue is purified on a silica gel column eluting with DCM (A) and a 10% MeOH in a DCM solution (B), gradient from 100% (A) to 85%(A): 15%(B) over 50 min to give a yellow solid as the title compound (358 mg, 98% yield). MS (m/z): 368 (M+H).

reactant | 6-cyclopropyl-5-(2-fluoro-4-nitrophenoxy)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole | 994 μmol, 395 mg | C1(CC1)C=1C(=CC2=CN(N=C2C1)C1OCCCC1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C21H20FN3O4
reactant | MeOH | 494 mmol, 20 mL | CO | CH4O
reactant | N,N-dimethylhydrazine | 9.94 mmol, 756 μL | CN(N)C | C2H8N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(6-Cyclopropyl-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-5-yloxy)-3-fluoroaniline | 358 mg, 98% yield | C1(CC1)C=1C(=CC2=CN(N=C2C1)C1OCCCC1)OC1=C(C=C(N)C=C1)F | C21H22FN3O2
